US09382237B2
5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carboxamide (100 mg) was suspended in EtOH (4 mL) and 4-nitrobenzaldehyde (1 eq.) and piperidine (1 drop) were added. Stirred at reflux until intermediate was absent (HPLC). After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain 3-((3-chlorophenyl)amino)-5-((4-nitrobenzylidene)amino)-1H-pyrazole-4-carboxamide as a yellow powder. Powder was washed with EtOH. Product was allowed to dry under vacuum for 1 hr.

reactant | 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carboxamide | 100 mg | NC1=C(C(=NN1)NC1=CC(=CC=C1)Cl)C(=O)N | C10H10ClN5O
reactant | 4-nitrobenzaldehyde | 1 eq. | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
product | 3-((3-chlorophenyl)amino)-5-((4-nitrobenzylidene)amino)-1H-pyrazole-4-carboxamide | ClC=1C=C(C=CC1)NC1=NNC(=C1C(=O)N)N=CC1=CC=C(C=C1)[N+](=O)[O-] | C17H13ClN6O3
